US07557114B2
(b) 5-Morpholin-4-yl-6-trifluoromethyl-2,3-dihydro-1H-isoindole hydrochloride
Prepared in analogy to Example A3(e) from 5-morpholin-4-yl-6-trifluoromethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester and hydrochloric acid. Off-white solid. MS (m/e): 273.0 ([M+H]+, 100%).

reactant | 5-morpholin-4-yl-6-trifluoromethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)N1CCOCC1)C(F)(F)F | C18H23F3N2O3
reactant | hydrochloric acid | Cl | ClH
product | 5-Morpholin-4-yl-6-trifluoromethyl-2,3-dihydro-1H-isoindole hydrochloride | Cl.N1(CCOCC1)C=1C=C2CNCC2=CC1C(F)(F)F | InChI=1S/C13H15F3N2O.ClH/c14-13(15,16)11-5-9-7-17-8-10(9)6-12(11)18-1-3-19-4-2-18;/h5-6,17H,1-4,7-8H2;1H
